US07541372B2
1-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-4-methyl-piperazine
As described for example 26, 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.57 mmol) was converted using 1-methylpiperazine instead of thiomorpholine to the title compound (SiO2, dichloromethane:(dichloromethane:methanol:ammonia=70:27:3)=92:2 to 80:20, 117 mg, 48%) which was obtained as an off-white solid. MS: m/e=432.4 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.57 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 1-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-4-methyl-piperazine | 117 mg, 48% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N1CCN(CC1)C | C24H25N5O3
